US07915284B2
{2-[2-(4-Chlorophenyl)imidazo[1,2-a]pyridin-6-yl]phenyl}methanol hydrochloride (1:1) (Compound 41 of the Table)
40 mg of {2-[2-(4-Chlorophenyl)imidazo[1,2-a]pyridin-6-yl]phenyl}methanol are suspended in 1.5 ml of ethanol; 1.79 ml of a 0.1N solution of hydrochloric acid in 2-propanol are added thereto, dropwise and with stirring, and the mixture is stirred at ambient temperature for 30 minutes. The reaction mixture is then concentrated under reduced pressure. The residue solid is taken up with ethanol and the precipitate is recovered by filtration, washed with ethanol and then with diethyl ether and filter-dried. The product is dried in an oven under reduced pressure at 60° C. 17 mg of white solid are obtained. Mp=238-239° C. 1H NMR (DMSO-d6, δ in ppm): 4.50 (s, 2H); from 7.36 to 7.54 (m, 3H); from 7.60 to 7.70 (m, 3H); 7.77 (m, 1H); 7.86 (d, J=7.7 Hz, 1H); 8.14 (d, J=9.2 Hz, 2H); 8.73 (s, 1H); 8.86 (s, 1H). M+H=335.

reactant | {2-[2-(4-Chlorophenyl)imidazo[1,2-a]pyridin-6-yl]phenyl}methanol | 40 mg | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C2=C(C=CC=C2)CO)C1 | C20H15ClN2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | 2-propanol | CC(C)O | C3H8O
product | {2-[2-(4-Chlorophenyl)imidazo[1,2-a]pyridin-6-yl]phenyl}methanol hydrochloride | 17 mg | Cl.ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C2=C(C=CC=C2)CO)C1 | InChI=1S/C20H15ClN2O.ClH/c21-17-8-5-14(6-9-17)19-12-23-11-15(7-10-20(23)22-19)18-4-2-1-3-16(18)13-24;/h1-12,24H,13H2;1H
